US08084623B2
A mixture of 3-bromo-5-fluoro-benzothiophene (0.4 g, 1.73 mmoles), magnesium (0.051 g, 2.1 mmoles) and a few particles of iodine in anhydrous tetrahydrofuran (10 mil) was refluxed for 7 hours, and then cooled in an ice bath. To the reaction mixture was slowly added a solution of 3-(3,3-dimethyl-butyl)-3-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester (0.39 g, 1.38 mmoles) in anhydrous tetrahydrofuran (9 mil). The reaction mixture was stirred at ice bath temperature for one hour and quenched with saturated aqueous ammonium chloride solution. The aqueous solution was extracted into ethylacetate which was washed with brine and dried over anhydrous sodium sulfate. After removal of drying agent, the organic solution was concentrated under reduced pressure. The residue was purified by silica gel chromatography (0 to 20% ethyl acetate in hexane) to yield 3-(3,3-dimethyl-butyl)-3-[(5-fluoro-benzo[b]thiophen-3-yl)-hydroxy-methyl]-pyrrolidine-1-carboxylic acid tert butyl ester as yellow foam (0.13 g, 21%), MS=436 [M+H]+.

reactant | 3-bromo-5-fluoro-benzothiophene | 1.73 mmoles, 0.4 g | BrC1=CSC2=C1C=C(C=C2)F | C8H4BrFS
reactant | magnesium | 2.1 mmoles, 0.051 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 3-(3,3-dimethyl-butyl)-3-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.38 mmoles, 0.39 g | C(C)(C)(C)OC(=O)N1CC(CC1)(C=O)CCC(C)(C)C | C16H29NO3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(3,3-dimethyl-butyl)-3-[(5-fluoro-benzo[b]thiophen-3-yl)-hydroxy-methyl]-pyrrolidine-1-carboxylic acid tert butyl ester | 0.13 g, 21% | C(C)(C)(C)OC(=O)N1CC(CC1)(C(O)C=1C2=C(SC1)C=CC(=C2)F)CCC(C)(C)C | C24H34FNO3S
